US05430042
Preparation of 5-Carbethoxy-2-[[(3,4-dimethoxy-2pyridinyl)methyl ]sulfinyl]-1H-benzimidazole
5--Carbethoxy-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole (95.2% pure) (1.4 g, 0.0036 mol) was dissolved in CH2Cl2 (30 ml). NaHCO3 (0.6 g, 0.0072 mol in H2O (10 ml) was added and the mixture was cooled to +2° C. m-Chloroperbenzoic acid 69.5% (0.87 g, 0.0035 mol) dissolved in CH2Cl2 (5 ml) was added dropwise under stirring. Stirring was continued at +2° C. for 10 min. The phases were separated and the organic phase was dried over Na2SO4 and evaporated under reduced pressure. The residue was crystallized from CH3CN (15 ml ) giving the title compound (0.76 g, 54%).

reactant | 5--Carbethoxy-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 0.0036 mol, 1.4 g | C(=O)(OCC)C1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1 | C18H19N3O4S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | m-Chloroperbenzoic acid | 0.0035 mol, 0.87 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 ml | O | H2O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-Carbethoxy-2-[[(3,4-dimethoxy-2pyridinyl)methyl ]sulfinyl]-1H-benzimidazole | 0.76 g, 54% | C(=O)(OCC)C1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OC)C=C1 | C18H19N3O5S
